US08703978B2
Methyl 6-(4′-pentylbiphenyl-4-yl)-2-phenyl-2-(4-pyrrolidinophenyl)-2H-naphtho[1,2-b]pyran-5-carboxylate
A mixture of 6-trifluoromethanesulfonyloxy-5-methoxycarbonyl-3-phenyl-3-(4-pyrrolidinophenyl)-2H-naphtho[1,2-b]pyran (0.96 g, 1.6 mmol), 4′-pentyl-4-biphenylboronic acid (0.66 g, 2.5 mmol), K2CO3 (0.68 g, 49 mmol) and Pd(PPh3)4 (91 mg, 3 mol %) in PhMe (30 mL) and EtOH (30 mL) was heated at reflux for 2 h. The resulting solution was cooled, poured into water (100 mL), extracted with DCM (4×50 mL), dried (MgSO4) and the solvent removed under reduced pressure. The residue was chromatographed twice on silica using PhMe (80% in hexanes). The solvent was removed under reduced pressure and the residue crystallized from acetone-MeOH to give the title compound (0.36 g, 32%) as a purple powder.

reactant | 6-trifluoromethanesulfonyloxy-5-methoxycarbonyl-3-phenyl-3-(4-pyrrolidinophenyl)-2H-naphtho[1,2-b]pyran | 1.6 mmol, 0.96 g | FC(S(=O)(=O)OC1=C(C=2C(OCC(C2)(C2=CC=C(C=C2)N2CCCC2)C2=CC=CC=C2)C2=CC=CC=C12)C(=O)OC)(F)F | C32H28F3NO6S
reactant | 4′-pentyl-4-biphenylboronic acid | 2.5 mmol, 0.66 g | C(CCCC)C1=CC=C(C=C1)C1=CC=C(C=C1)B(O)O | C17H21BO2
reactant | K2CO3 | 49 mmol, 0.68 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 100 mL | O | H2O
reactant | EtOH | 30 mL | CCO | C2H6O
solvent | PhMe | 30 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 91 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl 6-(4′-pentylbiphenyl-4-yl)-2-phenyl-2-(4-pyrrolidinophenyl)-2H-naphtho[1,2-b]pyran-5-carboxylate | 0.36 g, 32% | C(CCCC)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C2=C(OC(C=C2)(C2=CC=C(C=C2)N2CCCC2)C2=CC=CC=C2)C2=CC=CC=C12)C(=O)OC | C48H45NO3
